US04105434
Sodium (30.8g - 1.34g.atm) is reacted with 6 pints of absolute ethyl alcohol below 43° C. 3- Methylthio-1,2,4-triazine (159 g. - 1.25 m) is added, and the black mixture stirred under nitrogen at 40° to 44° C. for 34 minutes. The heating bath is replaced by ice water and carbon dioxide gas bubbled in, giving a red-orange mixture at pH 9 within 23/4 hours. Water (1.25 m) is added and carbon dioxide addition continued for 35 minutes without visible or pH change. Air is introduced for another half hour, giving a brown mixture. One liter of benzene is added and the contents filtered with suction at 19° C. The solids are slurried in a liter of water and extracted with CHCl3 several times. The combined filtrate and extracts are vacuum distilled, giving 3-ethoxy-1,2,4-triazine, b.p. 113°-115° C. at 16 mm. The pot residue is recrystallized from methanol to give 16 g. of golden brown platelets, m.p. 95°-99° C. Recrystallizing again from methanol, and finally from ethyl alcohol, yields 7.7 g. of 3,3'-diethoxy-5,5'-bis-1,2,4-triazinyl.

reactant | Sodium | 30.8g | [Na] | Na
reactant | ethyl alcohol | 6 pints | C(C)O | C2H6O
reactant | 3- Methylthio-1,2,4-triazine | 159 g | CSC=1N=NC=CN1 | C4H5N3S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | benzene | One liter | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | 3-ethoxy-1,2,4-triazine | C(C)OC=1N=NC=CN1 | C5H7N3O
